*opamp sub ckt
*$
.subckt opamp1 1 2 6
r1 0 1 10meg
r2 1 2 2meg
r3 2 0 10meg
e1 3 0 1 2 0.2meg
rp 3 4 1k
cp 4 0 22uf
e2 5 0 4 0 1
ro 5 6 75
.ends
*$
